US05962002
A 50% excess of this acid was added to a stirred solution of 2-hydroxynaphthalene-1,4-dione (1.00 g, 5.7 mmol), and silver nitrate (600 mg) in a mixture of acetonitrile (20 ml) and water (20 ml) at 65° C. and a solution of ammonium peroxysulphate (1.96 g, 8.6 mmol) in water (10 ml) was slowly added to that over a period of 15 minutes. The mixture was heated for a further hour before cooling to room temperature (about 20° C.) and diluting with diethyl ether (50 ml). The organic phase was separated and washed successively with 25 water, dilute aqueous sodium hydrogen carbonate solution, water and saturated sodium chloride solution before drying over magnesium sulphate as set out in Example 3. Filtration and evaporation of the solvent under reduced pressure followed by silica gel column chromatography using 2:1 petrol:diethyl ether as eluant gave 2-hydroxy-3-(1-methylcyclopentyl)naphthalene-1,4-dione (mp 116-118° C.).

reactant | 2-hydroxynaphthalene-1,4-dione | 5.7 mmol, 1.00 g | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
reactant | ammonium peroxysulphate | 8.6 mmol, 1.96 g | S(=O)(=O)([O-])O[O-].[NH4+].[NH4+]
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 20 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
catalyst | silver nitrate | 600 mg | [N+](=O)([O-])[O-].[Ag+]
product | 2-hydroxy-3-(1-methylcyclopentyl)naphthalene-1,4-dione | OC=1C(C2=CC=CC=C2C(C1C1(CCCC1)C)=O)=O | C16H16O3
